US05750724
(2.3-Dihydro-benzo[1,4]dioxin-2-ylmethyl)-[3-(5-methoxy-1H-indol-3-yl)-propyl]-amine
2,3-Dihydro-1,4-benzodioxin-2-methanamine hydrochloride (2.3 g, 11.0 mmole) in DMF (100 ml) was slowly added to a mixture of 5-methoxy-3-(3-bromopropyl)indole (3.0 g, 11.0 mmole) and diisopropylethylamine (9.7 ml, 55 mmole) in 100 ml of DMF with stirring and the mixture was heated at 80° C. for 24 hours. Most of DMF was removed in vacuum and the residue was partitioned between dichloromethane and saturated aqueous sodium bicarbonate. The dichloromethane solution was dried over anhydrous sodium sulfate, filtered, concentrated in vacuum and chromatographed on silica gel using ethyl acetate as the eluant. The combined fractions of free base of the expected product (1.3 g, 3.7 mmole, 34%) were concentrated, treated with 0.25M of fumaric acid in ethanol (8.1 ml, 2.0 mmole) and diluted first with 50 ml of ethanol-diethyl ether (1:1) and then with a minimum amount of hexane to precipitate the title compound as a white solid, (2:1) fumarate salt, m.p. 135°-136° C.

reactant | 2,3-Dihydro-1,4-benzodioxin-2-methanamine hydrochloride | 11.0 mmole, 2.3 g | Cl.O1C(COC2=C1C=CC=C2)CN
reactant | 5-methoxy-3-(3-bromopropyl)indole | 11.0 mmole, 3.0 g | COC=1C=C2C(=CNC2=CC1)CCCBr | C12H14BrNO
reactant | diisopropylethylamine | 55 mmole, 9.7 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | (2.3-Dihydro-benzo[1,4]dioxin-2-ylmethyl)-[3-(5-methoxy-1H-indol-3-yl)-propyl]-amine | 3.7 mmole, 1.3 g, 34% | O1C(COC2=C1C=CC=C2)CNCCCC2=CNC1=CC=C(C=C21)OC | C21H24N2O3
